US06458796B1
5-(4-Dimethylamino-benzyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 5, the title compound is prepared from 1.0 g (3.8 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide and 1.77 g (9.15 mmol) of methyl 4-dimethylaminophenylacetate.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 3.8 mmol, 1.0 g | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | methyl 4-dimethylaminophenylacetate | 9.15 mmol, 1.77 g | CN(C1=CC=C(C=C1)CC(=O)OC)C | C11H15NO2
product | 5-(4-Dimethylamino-benzyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | CN(C1=CC=C(CC=2NC(C3=C(N2)N(N=N3)C(CCCC3=CC=CC=C3)C)=O)C=C1)C | C24H28N6O
